US07897597B2
For Example 73, a modification of the general method described for Part C of Example 50 was followed using tert-butyl {4-[3-amino-6-(benzyloxy)quinolin-4-ylamino]butyl}carbamate (9.25 g, 21.2 mmol) in lieu of tert-butyl {4-[3-amino-7-(benzyloxy)quinolin-4-ylamino]butyl}carbamate and ethoxyacetyl chloride (2.86 g, 23.3 mmol) in lieu of methoxypropionyl chloride. After the cyclization reaction, the solvent was removed under reduced pressure, and the residue was dissolved in chloroform (400 mL). The resulting solution was washed with water (2×200 mL) and brine (1×200 mL), concentrated under reduced pressure, and dried under high vacuum to provide a brown oil. The crude product was purified by column chromatography on silica gel (400 g, eluting with 95:5 dichloromethane:methanol). The resulting solid was triturated with diethyl ether and isolated by filtration to provide 5.37 g of tert-butyl {4-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}carbamate as an off-white powder.

reactant | tert-butyl {4-[3-amino-6-(benzyloxy)quinolin-4-ylamino]butyl}carbamate | 21.2 mmol, 9.25 g | NC=1C=NC2=CC=C(C=C2C1NCCCCNC(OC(C)(C)C)=O)OCC1=CC=CC=C1 | C25H32N4O3
reactant | tert-butyl {4-[3-amino-7-(benzyloxy)quinolin-4-ylamino]butyl}carbamate | NC=1C=NC2=CC(=CC=C2C1NCCCCNC(OC(C)(C)C)=O)OCC1=CC=CC=C1 | C25H32N4O3
reactant | ethoxyacetyl chloride | 23.3 mmol, 2.86 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | methoxypropionyl chloride | COCCC(=O)Cl | C4H7ClO2
product | tert-butyl {4-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}carbamate | 5.37 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3CCCCNC(OC(C)(C)C)=O)COCC | C29H36N4O4
